US09388161B2
Methyl chloroformate (5 μL, 0.06 mmol) was added to a solution of (S)-1-(2-methyl-6-(piperidin-4-yl)-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone (20 mg, 0.05 mmol) and triethylamine (0.04 mL, 0.27 mmol) in dichloromethane (0.5 mL), and the reaction stirred at room temperature overnight. The reaction was quenched via the addition of water (5 mL). The organic layer was collected and further washed with water (5 mL) and brine (5 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified via column chromatography on silica gel (Biotage 10 g column, gradient elution with 10-20% methanol in ethyl acetate) to afford methyl (S)-4-(1-acetyl-2-methyl-5-propoxy-1,2,3,4-tetrahydroquinolin-6-yl)piperidine-1-carboxylate (19 mg, 89%) as a colorless oil. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.94-1.07 (m, 6H), 1.17-1.26 (m, 1H), 1.43-1.57 (m, 2H), 1.60-1.79 (m, 4H), 2.01 (s, 3H), 2.16-2.31 (m, 2H), 2.68-2.91 (m, 3H), 2.95-3.03 (m, 1H), 3.58 (s, 3H), 3.61-3.73 (m, 2H), 4.04-4.15 (m, 2H), 4.56 (br d, J=6.45 Hz, 1H), 7.05 (br s, 2H). MS (ESI, pos. ion) m/z 389 [M+H]+.

reactant | Methyl chloroformate | 0.06 mmol, 5 μL | ClC(=O)OC | C2H3ClO2
reactant | (S)-1-(2-methyl-6-(piperidin-4-yl)-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.05 mmol, 20 mg | C[C@@H]1N(C2=CC=C(C(=C2CC1)OCCC)C1CCNCC1)C(C)=O | C20H30N2O2
reactant | triethylamine | 0.27 mmol, 0.04 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | methyl (S)-4-(1-acetyl-2-methyl-5-propoxy-1,2,3,4-tetrahydroquinolin-6-yl)piperidine-1-carboxylate | 19 mg, 89% | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)C1CCN(CC1)C(=O)OC)OCCC)C | C22H32N2O4
